US07001897B2
To a solution of 1-(4-{N-[2-(t-butyldimethylsilyloxy)ethyl]-N-isopropyl-carbamoyl}-1,3-thiazol-2-yl)-3-hydroxyazetidine (1.24 g, 3.23 mmol) (obtained as described in Reference Example 59(3)) in methylene chloride (62 ml) were added methanesulfonyl chloride (0.30 ml, 3.88 mmol) and triethylamine (0.54 ml, 3.88 mmol) in an ice bath, and then the mixture was stirred in the ice bath for 1.5 hours. After checking the completion of the reaction, the reaction mixture was partitioned between ethyl acetate and saturated aqueous sodium hydrogencarbonate solution. The organic layer was washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using hexane:ethyl acetate (1:1) ethyl acetate as the eluant to afford 1-(4-{N-[2-(t-butyldimethylsilyloxy)-ethyl]-N-isopropyl-carbamoyl}-1,3-thiazol-2-yl)-3-methanesulfonyloxyazetidine (649 mg, yield 42%) as a pale yellow solid.

reactant | 1-(4-{N-[2-(t-butyldimethylsilyloxy)ethyl]-N-isopropyl-carbamoyl}-1,3-thiazol-2-yl)-3-hydroxyazetidine | 3.23 mmol, 1.24 g | [Si](C)(C)(C(C)(C)C)OCCN(C(=O)C=1N=C(SC1)N1CC(C1)O)C(C)C | C18H33N3O3SSi
reactant | methanesulfonyl chloride | 3.88 mmol, 0.30 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 3.88 mmol, 0.54 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 62 ml | C(Cl)Cl | CH2Cl2
product | 1-(4-{N-[2-(t-butyldimethylsilyloxy)-ethyl]-N-isopropyl-carbamoyl}-1,3-thiazol-2-yl)-3-methanesulfonyloxyazetidine | 649 mg, yield 42% | [Si](C)(C)(C(C)(C)C)OCCN(C(=O)C=1N=C(SC1)N1CC(C1)OS(=O)(=O)C)C(C)C | C19H35N3O5S2Si
